US08541588B2
N-(5-chloro-thiazol-2-yl)-3-cyano-4-fluorobenzenesulfonamide
To a stirred mixture of 2-amino-5-chlorothiazole-hydrochloride (3.76 g, 22.0 mmol) in dichloromethane (20 ml) was added pyridine (8.09 ml, 100 mmol). 3-cyano-4-fluorobenzenesulfonyl chloride (4.39 g, 20 mmol) dissolved in dichloromethane (5 mL) and was added to the reaction mixture dropwise at room temperature. After stirring for 48 hours at room temperature, 1 N HCl (100 mL) was poured into the reaction and the mixture was extracted with dichloromethane/methanol (v/v=95/5, 100 ml) three times. The collected organic layer was evaporated in vacuo and dried over MgSO4 to obtain the crude residue. The crude residue was washed with dichloromethane (10 mL) and filtered to afford pale yellow solid as the title compound. LCMS Rt=1.39 minutes MS m/z 318 [M35ClH]+, 320 [M37ClH]+ 1HNMR (d6-DMSO): δ 7.59 (s, 1H), 7.66-7.73 (m, 1H), 8.15-8.21 (m, 1H), 8.33-8.37 (m, 1H).

reactant | 2-amino-5-chlorothiazole-hydrochloride | 22.0 mmol, 3.76 g | Cl.NC=1SC(=CN1)Cl
reactant | pyridine | 100 mmol, 8.09 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-cyano-4-fluorobenzenesulfonyl chloride | 20 mmol, 4.39 g | C(#N)C=1C=C(C=CC1F)S(=O)(=O)Cl | C7H3ClFNO2S
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(5-chloro-thiazol-2-yl)-3-cyano-4-fluorobenzenesulfonamide | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C=C1)F)C#N | C10H5ClFN3O2S2
